US07713993B2
Synthesis of methyl 5-(N′-tert-butoxycarbonylhydrazino)-5-(4-fluorophenyl)pentanoate
A solution of methyl 5-(4-fluorophenyl)-5-oxopentanoate (CAS No. 149437-67-2, 116 mg) and tert-butyl carbazate (73 mg) in 2-propanol (3 mL) was heated under reflux for six hours. The reaction solution was left to cool to room temperature, and then platinum oxide (10 mg) was added to the reaction solution. The reaction solution was stirred at room temperature in an hydrogen atmosphere at 3.5 atm for eight hours. The reaction solution was filtered through celite, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane:ethyl acetate=9:1->heptane:ethyl acetate=1:1) to obtain 81 mg of the title compound. The property value of the compound is as follows.

reactant | methyl 5-(4-fluorophenyl)-5-oxopentanoate | FC1=CC=C(C=C1)C(CCCC(=O)OC)=O | C12H13FO3
reactant | tert-butyl carbazate | 73 mg | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | hydrogen | [H][H] | H2
solvent | 2-propanol | 3 mL | CC(C)O | C3H8O
catalyst | platinum oxide | 10 mg | [Pt]=O
product | methyl 5-(N′-tert-butoxycarbonylhydrazino)-5-(4-fluorophenyl)pentanoate | 81 mg | C(C)(C)(C)OC(=O)NNC(CCCC(=O)OC)C1=CC=C(C=C1)F | C17H25FN2O4
